US04525563
To a triangular flask of 2 l containing 1200 ml of water was added dropwise 342 g of 3-chloropropylchlorodimethylsilane (hereinafter referred to as "CPCDMSi") in an hour while stirring with a magnetic stirrer at a room temperature. After completion of the addition, the reaction mixture was neutralized with sodium carbonate and then extracted three times with each 500 ml of n-hexane. After drying the n-hexane layer with anhydrous magnesium sulfate, n-hexane was removed under reduced pressure. The obtained residue was distilled under reduced pressure, and then the distillate obtained at 103° C./1.5 mmHg was collected to give 255 g (Yield 89%) of 1,3-bis(3-chloropropyl)-1,1,3,3-tetramethyldisiloxane (hereinafter referred to as "BCPSi").

reactant | 3-chloropropylchlorodimethylsilane | 342 g | ClCCC[Si](C)(C)Cl | C5H12Cl2Si
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1200 ml | O | H2O
product | 1,3-bis(3-chloropropyl)-1,1,3,3-tetramethyldisiloxane | 255 g, Yield 89% | ClCCC[Si](O[Si](C)(C)CCCCl)(C)C | C10H24Cl2OSi2
